US07807671B2
Preparation of N-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)acetamide (Compound B-18)
1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (100 mg, 0.23 mmol) was dissolved in pyridine (2 mL) and the mixture was heated at 50° C. Acetyl chloride (65 uL, 0.92 mmol) was added and the mixture was stirred at this temperature for 1 h. Solvent was removed in vacuum and the residue was purified using reverse phase prep HPLC to afford the title compound as a white solid (55 mg). 1HNMR (500 MHz, DMSO-D6) δ 8.34 (s, 1H), 8.04 (d, J=1.0 Hz, 1H), 7.70-7.58 (m, 5H), 3.69 (m, 2H), 3.45 (m, 2H), 3.34 (m, 2H), 3.16 (m, 2H), 2.17 (s, 3H). LCMS: m/e 478 (M+H)+, ret time 1.07 min (method 3).

reactant | 1-(7-amino-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.23 mmol, 100 mg | NC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H18FN9O2
reactant | Acetyl chloride | 0.92 mmol, 65 uL | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(4-fluoro-3-(2-oxo-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)acetyl)-1H-pyrrolo[2,3-c]pyridin-7-yl)acetamide | 55 mg | FC1=C2C(=C(N=C1)NC(C)=O)NC=C2C(C(N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)=O | C22H20FN9O3
